US07915271B2
A solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(2-bromobutanoyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (25 mg, 0.040 mmol) and methyl 4-(aminocarbonothioyl)-3-methylbenzoate (16.87 mg, 0.081 mmol) in EtOH (450 μL) was heated at 70° C. overnight. The reaction was concentrated in vacuo and the residue was purified by preparative TLC (Si, 1000 microns, Hex/EtOAc (80:20)) to afford methyl 4-{4-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)phenyl]-5-ethyl-1,3-thiazol-2-yl}-3-methylbenzoate, as colorless oil. LCMS calc.=731.2; found=731.0 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.99 (s, 1H); 7.92 (d, J=8.1 Hz, 1H); 7.86 (d, J=8.0 Hz, 2H); 7.79 (s, 1H); 7.72 (d, J=7.9 Hz, 1H); 7.69 (s, 1H); 7.55 (d, J=7.9 Hz, 1H); 7.29 (s, 1H); 5.59 (d, J=8.0 Hz, 1H); 4.91 (d, J=15.7 Hz, 1H); 4.27 (d, J=15.7 Hz, 1H); 4.04-3.99 (m, 1H); 3.95 (s, 3H); 2.88-2.76 (m, 2H); 2.68 (s, 3H); 1.36 (t, J=7.5 Hz, 3H); 0.57 (d, J=6.5 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(2-bromobutanoyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.040 mmol, 25 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C(C(CC)Br)=O)C)(F)F | C24H19BrF9NO3
reactant | methyl 4-(aminocarbonothioyl)-3-methylbenzoate | 0.081 mmol, 16.87 mg | NC(=S)C1=C(C=C(C(=O)OC)C=C1)C | C10H11NO2S
solvent | EtOH | 450 μL | CCO | C2H6O
product | methyl 4-{4-[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)phenyl]-5-ethyl-1,3-thiazol-2-yl}-3-methylbenzoate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1N=C(SC1CC)C1=C(C=C(C(=O)OC)C=C1)C)C)(F)F | C34H27F9N2O4S
